US08026236B2
D: 3-(4-Bromo-2-(trifluoromethyl)-phenoxy)propan-1-ol
3-Iodopropanol (11.23 g) was added to a mixture of 4-bromo-2-(trifluoromethyl)-phenol (15 g) and potassium carbonate (172 g) in acetonitrile (150 ml). The above mixture was refluxed for 4 hours then diluted with ethyl acetate (500 ml) and water (300 ml). Organic layer was seperated, dried over magnesium sulphate, solvent removed under reduced pressure to give expected product clean enough for use at the next step (18.6 g). 1H NMR (CDCl3) δ: 7.67 (d, 1H), 7.58 (dd, 1H), 6.90 (dd, 1H), 4.18 (t, 2H), 3.87 (q, 2H), 2.07 (tt, 2H).

reactant | 3-Iodopropanol | 11.23 g | ICCCO | C3H7IO
reactant | 4-bromo-2-(trifluoromethyl)-phenol | 15 g | BrC1=CC(=C(C=C1)O)C(F)(F)F | C7H4BrF3O
reactant | potassium carbonate | 172 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 300 ml | O | H2O
product | 3-(4-Bromo-2-(trifluoromethyl)-phenoxy)propan-1-ol | BrC1=CC(=C(OCCCO)C=C1)C(F)(F)F | C10H10BrF3O2
